US05952282
10.0 g of pseudosaccharine chloride are initially introduced in 150 ml of toluene. 4.4 g of morpholine diluted with 25 ml of toluene are added dropwise at room temperature over the course of 30 minutes. Since the reaction is exothermic, the mixture is cooled with an ice bath. After a further 30 minues, 50 ml of pyridine in 25 ml of toluene are added and the mixture is subsequently stirred at room temperature for 2.5 hours. The solvent is then removed in vacuo and the residue is stirred up with 350 ml of water. The colorless precipitate is filtered off to give 10.8 g (86%) of 3-diethylaminobenzoisothiazole 1,1-dioxide.

reactant | pseudosaccharine chloride | 10.0 g | C1=CC=C2C(=C1)C(=NS2(=O)=O)Cl | C7H4ClNO2S
reactant | morpholine | 4.4 g | N1CCOCC1 | C4H9NO
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-diethylaminobenzoisothiazole 1,1-dioxide | 10.8 g, 86% | C(C)N(C1=NS(C2=C1C=CC=C2)(=O)=O)CC | C11H14N2O2S
